US07553973B2
Step 1: 7-bromo-4-(1-ethoxyvinyl)-2H-chromen-2-one
To a solution of 7-bromo-4-trifluoromethanesulfonyloxycoumarin (5.1 g, 13.7 mmol) in dioxane is added tributyl(1-ethoxyvinyl)tin (4.8 mL, 14.2 mmol), (Ph3P)4Pd (0.790 g, 0.7 mmol) and LiCl (1.74 g, 41 mmol). The mixture is refluxed for 4 h, cooled and partitioned between aqueous NH4Cl and EtOAc. The layers are separated and the aqueous phase is extracted with EtOAc. The combined organic layers are washed with brine and dried over anhydrous Na2SO4. The solvent is evaporated and the residue is chromatographed on silica gel (CH2Cl2/EtOAc; 95:5) and triturated in hexane/Et2O to give the title compound.

reactant | 7-bromo-4-trifluoromethanesulfonyloxycoumarin | 13.7 mmol, 5.1 g | BrC1=CC=C2C(=CC(OC2=C1)=O)OS(=O)(=O)C(F)(F)F | C10H4BrF3O5S
reactant | tributyl(1-ethoxyvinyl)tin | 14.2 mmol, 4.8 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | LiCl | 41 mmol, 1.74 g | [Li+].[Cl-]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | (Ph3P)4Pd | 0.7 mmol, 0.790 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-bromo-4-(1-ethoxyvinyl)-2H-chromen-2-one | BrC1=CC=C2C(=CC(OC2=C1)=O)C(=C)OCC | C13H11BrO3
